US05091426
1-[5-(2-Nitrophenyl)-2-furanyl]-3-(1-piperidinyl)-1-propanone Hydrochloride
Concentrated HCl (16 ml.) is added to a stirred solution of 17 g. (0.20 mole) of piperidine in 100 ml. of n-butanol. To this solution is added 23 g. (0.10 mole) of 5-(o-nitrophenyl)-2-furyl methyl ketone and 6.0 g. (0.20 mole) of paraformaldehyde. The solution is heated under reflux for 3 hr. and the solvent is removed on a rotary evaporator. The residual semi-solid is partitioned between ether and water, the layers are separated, and the ether layer is dried over MgSO4. The solvent is removed on a rotary evaporator to give a residual oil. The oil is dissolved in anhydrous ether and is treated with ethereal HCl. The solid is collected by filtration and is dissolved in 300 ml. of CH3CN. The solution is concentrated and cooled in ice to give solid which is collected by filtration. Recrystallization from CH3CN and then recrystallization with absolute ethanol-anhydrous ether mixture gives 6.5 g. (28%) of product, m.p. 160°-162°.

reactant | HCl | 16 ml | Cl | ClH
reactant | piperidine | 0.20 mole | N1CCCCC1 | C5H11N
reactant | 5-(o-nitrophenyl)-2-furyl methyl ketone | 0.10 mole | CC(=O)C=1OC(=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H9NO4
reactant | paraformaldehyde | 0.20 mole | C=O | CH2O
solvent | ether | CCOCC | C4H10O
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-[5-(2-Nitrophenyl)-2-furanyl]-3-(1-piperidinyl)-1-propanone Hydrochloride | Cl.[N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(O1)C(CCN1CCCCC1)=O | InChI=1S/C18H20N2O4.ClH/c21-16(10-13-19-11-4-1-5-12-19)18-9-8-17(24-18)14-6-2-3-7-15(14)20(22)23;/h2-3,6-9H,1,4-5,10-13H2;1H
